US06384014B1
Working as in Example F, but starting with 10 g of diethyl 4-ethylaminobenzylacetamidomalonate, 5.6 ml of 1-iodopropane and 7.2 ml of 1,5-diazabicyclo-[4.3.0] non-5-ene in 70 ml of tetrahydrofuran, and after reacting for 36 hours followed by purification by flash chromatography (eluent: 97/3 CH2Cl2/MeOH by volume), 2.8 g of a solid are obtained, which solid is recrystallized from 26 ml of cyclohexane. 2.9 g of diethyl 4-(ethylpropylamino)benzylacetamidomalonate are thus obtained in the form of a white solid melting at 84-86° C.

reactant | diethyl 4-ethylaminobenzylacetamidomalonate | 10 g | C(C)NC1=CC=C(CCC(=O)NC(C(=O)OCC)C(=O)OCC)C=C1 | C18H26N2O5
reactant | 1-iodopropane | 5.6 ml | ICCC | C3H7I
reactant | 1,5-diazabicyclo-[4.3.0] non-5-ene | 7.2 ml | N12CCCN=C2CCC1 | C7H12N2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | diethyl 4-(ethylpropylamino)benzylacetamidomalonate | 2.9 g | C(C)N(C1=CC=C(CCC(=O)NC(C(=O)OCC)C(=O)OCC)C=C1)CCC | C21H32N2O5
